US08026365B2
Step 2: 6-Chloro-N-(4-cyano-piperidin-4-yl)-nicotinamide dihydrochloride
A solution of 4-[(6-chloro-pyridine-3-carbonyl)-amino]-4-cyano-piperidine-1-carboxylic acid tert-butyl ester (0.30 g, 0.82 mmol) in 4 M HCl in dioxane (4 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. Note: The product is contaminated with some primary amide (partial hydrolysis of the nitrile). MS (ISP): 265.3 [M+H]+.

reactant | 4-[(6-chloro-pyridine-3-carbonyl)-amino]-4-cyano-piperidine-1-carboxylic acid tert-butyl ester | 0.82 mmol, 0.30 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C#N)NC(=O)C=1C=NC(=CC1)Cl | C17H21ClN4O3
solvent | HCl | 4 M | Cl | ClH
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 6-Chloro-N-(4-cyano-piperidin-4-yl)-nicotinamide dihydrochloride | Cl.Cl.ClC1=NC=C(C(=O)NC2(CCNCC2)C#N)C=C1 | InChI=1S/C12H13ClN4O.2ClH/c13-10-2-1-9(7-16-10)11(18)17-12(8-14)3-5-15-6-4-12;;/h1-2,7,15H,3-6H2,(H,17,18);2*1H
